US08957074B2
Following general N—C coupling procedure 1, (1R,6S)-3-(6-Amino-pyridin-3-yl)-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester (0.548 gm, 1.65 mmol) was combined with 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (483 mg, 1.65 mmol) which gave (1R,6S)-tert-butyl 3-(6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate (858 mg) in 88% yield.

reactant | (1R,6S)-3-(6-Amino-pyridin-3-yl)-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | 1.65 mmol, 0.548 gm | C(C)(C)(C)OC(=O)N1[C@H]2CN(C(C[C@@H]1CC2)=O)C=2C=NC(=CC2)N | C17H24N4O3
reactant | 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 1.65 mmol, 483 mg | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCC2 | C14H17ClN4O
product | (1R,6S)-tert-butyl 3-(6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-4-oxo-3,9-diazabicyclo[4.2.1]nonane-9-carboxylate | 858 mg, 88% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=CC=C(C=N2)N2C[C@H]1CC[C@@H](CC2=O)N1C(=O)OC(C)(C)C)C(N(C)C)=O | C31H40N8O4
